US08283353B2
propyl 3-oxocyclobutanecarboxylate
An ozone gas was blown into a solution (200 mL) of propyl 3-methylidenecyclobutanecarboxylate (15 g) in methanol at −78° C. for 2 hr. Dimethyl sulfide (21 g) was added to the reaction mixture at the same temperature, and the mixture was warmed to room temperature over 1 hr. The obtained mixture was concentrated and purified by silica gel column chromatography to give the title compound as a colorless oil (13 g, 88%).

reactant | ozone | O=[O+][O-] | O3
reactant | propyl 3-methylidenecyclobutanecarboxylate | 200 mL, 15 g | C=C1CC(C1)C(=O)OCCC | C9H14O2
reactant | Dimethyl sulfide | 21 g | CSC | C2H6S
solvent | methanol | CO | CH4O
product | propyl 3-oxocyclobutanecarboxylate | 13 g, 88% | O=C1CC(C1)C(=O)OCCC | C8H12O3
